US07173134B2
E. 5-Methyl-4-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furaldehyde
A solution containing 4-[hydroxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-5-methyl-2-furaldehyde (3.6 g, 11 mmol), triethylsilane (3.8 g, 33.1 mmol) and anhydrous methylene chloride (50 mL) was cooled to 0° C. To this mixture was added trifluoroacetic acid (˜1.3 g, 11.4 mmol) and the reaction was allowed to stir at RT for 16 hours. The reaction was quenched with saturated NaHCO3 and the organics were separated and dried over MgSO4. The resulting oil was used without further purification (the product appears to quickly decompose).

reactant | 4-[hydroxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-5-methyl-2-furaldehyde | 11 mmol, 3.6 g | OC(C=1C=C(OC1C)C=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H26O3
reactant | triethylsilane | 33.1 mmol, 3.8 g | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 11.4 mmol, ˜1.3 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Methyl-4-[(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthalenyl)methyl]-2-furaldehyde | CC1=C(C=C(O1)C=O)CC1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C21H26O2
